US09079911B2
Step B: 3-Fluoro-2-(2H-1,2,3-triazol-2-yl)benzoic acid.
To 3-fluoro-2-(2H-1,2,3-triazol-2-yl)benzonitrile (1.5 g, 8.0 mmol) in MeOH (30 mL) was added 2M aq. NaOH (10 mL). The reaction was heated at reflux for 15 h, then cooled to rt, acidified with 1N aq. HCl to pH=1 and extracted with DCM (2×). The combined organics were washed with brine and dried (Na2SO4). Purification via Agilent (Reverse-Phase HPLC, basic conditions) gave the title compound (290 mg, 18%). 1H NMR (CDCl3): 7.90 (s, 2H), 7.89-7.85 (m, 1H), 7.63-7.56 (m, 1H), 7.50-7.44 (m, 1H) and 3-methoxy-2-(2H-1,2,3-triazol-2-yl)benzoic acid (Intermediate 53, 140 mg, 8%).

reactant | 3-fluoro-2-(2H-1,2,3-triazol-2-yl)benzonitrile | 8.0 mmol, 1.5 g | FC=1C(=C(C#N)C=CC1)N1N=CC=N1 | C9H5FN4
reactant | NaOH | 2M, 10 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | MeOH | 30 mL | CO | CH4O
product | 3-Fluoro-2-(2H-1,2,3-triazol-2-yl)benzoic acid | 290 mg, 18% | FC=1C(=C(C(=O)O)C=CC1)N1N=CC=N1 | C9H6FN3O2
